* c:\users\vivobook\desktop\esim\ldo_voltage_regilator\ldo_voltage_regilator.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m3 vin vin gnd gnd CMOSN W=100u L=100u M=1
m7 net-_m6-pad3_ vin gnd gnd CMOSN W=100u L=100u M=1
m2 vin net-_m1-pad2_ net-_m2-pad3_ vin CMOSP W=100u L=100u M=1
m6 vin net-_m2-pad3_ net-_m6-pad3_ vin CMOSP W=100u L=100u M=1
m1 vin net-_m1-pad2_ net-_m1-pad2_ vin CMOSP W=100u L=100u M=1
m8 vin net-_m6-pad3_ vout vin CMOSP W=100u L=100u M=1
m5 net-_m4-pad3_ vin gnd gnd CMOSN W=100u L=100u M=1
r1  net-_m9-pad2_ vout 60k
r2  gnd net-_m9-pad2_ 100k
c1  vout gnd 50pf
v2  vref gnd 1.50v
* u4  vref plot_v1
m4 net-_m1-pad2_ vref net-_m4-pad3_ net-_m4-pad3_ CMOSN W=100u L=100u M=1
m9 net-_m2-pad3_ net-_m9-pad2_ net-_m4-pad3_ net-_m4-pad3_ CMOSN W=100u L=100u M=1
* u2  vout plot_v1
* u1  vin plot_v1
r3  vout gnd 10k
v1  vin gnd 2.55v
.tran 0e-00 100e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vref)
plot v(vout)
plot v(vin)
.endc
.end
